US08278457B2
Step 3. Synthesis of cis-3-azido-4-(4-bromophenoxy)tetrahydrofuran
To a solution of trans-4-(4-bromophenoxy)tetrahydrofuran-3-yl methanesulfonate (133.2 g, 0.395 mol) in dimethylformamide (3 L) was added sodium azide (192.6 g, 2.96 mol) and the reaction was heated at 110° C. for 66 hours. The reaction was cooled to room temperature and water (12 L) was added. This reaction was carried out a total of three times on the same scale, and the combined batches were extracted with tert-butyl methyl ether. The organic layers were then dried over sodium sulfate and concentrated in vacuo to afford product as a red-brown oil, contaminated with 18% dimethylformamide. Corrected yield: 286.7 g, 1.01 mol, 85%. 1H NMR (400 MHz, CDCl3) δ 3.93-3.97 (m, 2H), 4.00 (m, 1H), 4.09 (dd, J=8.7, 5.8 Hz, 1H), 4.17 (dd, J=10.0, 5.6 Hz, 1H), 4.90 (ddd, J=5.4, 5.4, 4.4 Hz, 1H), 6.83 (d, J=9.1 Hz, 2H), 7.41 (d, J=9.0 Hz, 2H).

reactant | trans-4-(4-bromophenoxy)tetrahydrofuran-3-yl methanesulfonate | 0.395 mol, 133.2 g | CS(=O)(=O)O[C@@H]1COC[C@H]1OC1=CC=C(C=C1)Br | C11H13BrO5S
reactant | sodium azide | 2.96 mol, 192.6 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 12 L | O | H2O
solvent | dimethylformamide | 3 L | CN(C=O)C | C3H7NO
product | cis-3-azido-4-(4-bromophenoxy)tetrahydrofuran | N(=[N+]=[N-])[C@@H]1COC[C@@H]1OC1=CC=C(C=C1)Br | C10H10BrN3O2
